US04384152
Dehydrogenation of sym.-octahydroanthracene
1000 g raw anthracene were dissolved under heating in 3.8 liters technical pyridine (base mixture) for purification. The crystals precipitating upon cooling of the solution were centrifuged, washed with little solvent and water and were dried. The yield of anthracene was 880 g with a purity of more than 99 percent (Melting point 216°-217° C.). The residue from evaporation of the mother liquor (about 118 g) was returned to the hydrogenation stage.

reactant | anthracene | 1000 g | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
solvent | pyridine | 3.8 liters | N1=CC=CC=C1 | C5H5N
product | octahydroanthracene | C1CCCC2CC3CC=CC=C3C=C12 | C14H18
